US03933497
A sample of 8-azido-1-naphthylamine (0.368 g., 0.02 mole) was dissolved in warm, dilute sulfuric acid (3 ml. of conc. H2SO4 diluted with 30 ml. of water). The solution was cooled to O°C. and diazotized with a solution of NaNO2 (160 mg., 0.023 mole) in 2 ml. of water. The excess of nitrous acid was destroyed by the addition of urea. The yellow solution of the diazonium salt was diluted with 100 ml. of water and heated at 60°for 1.5 hr. The precipitated material was washed with water, dried and filtered through activated charcoal. Removal of ether left a residue which weighed 35 mg. Recrystallization from petroleum ether gave 1-azido-8-hydroxynaphthalene in the form of pale yellow needles (20 mg., 5.4 percent), m.p. 65°C.-67°C.

reactant | 8-azido-1-naphthylamine | 0.02 mole, 0.368 g | N(=[N+]=[N-])C=1C=CC=C2C=CC=C(C12)N | C10H8N4
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaNO2 | 0.023 mole, 160 mg | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 1-azido-8-hydroxynaphthalene | N(=[N+]=[N-])C1=CC=CC2=CC=CC(=C12)O | C10H7N3O
